US05763599
KOH (21 mg, 0.37 mmol) was added to a mixture of o-nitrotoluene (9.2 g, 67 mmol) and paraformaldehyde (0.8 g, 25 mmol) in DMSO (10 ml, synthesis quality, additionally dried for 2 d over molecular sieve 4 Å) which was then stirred for 2.5 h at 95° C. The solvent was removed and the residue purified by column chromatography (SiO2, 20×3 cm, solvent: toluene 750 ml, toluene/EtOAc 10:1 500 ml, 7:1 500 ml, 5:1 500 ml). 2-(2-nitrophenyl)ethanol (2.33 g, 21%) was obtained as a yellow oil.

reactant | o-nitrotoluene | 67 mmol, 9.2 g | [N+](=O)([O-])C1=C(C=CC=C1)C | C7H7NO2
reactant | paraformaldehyde | 25 mmol, 0.8 g | C=O | CH2O
solvent | DMSO | CS(=O)C | C2H6OS
catalyst | KOH | 0.37 mmol, 21 mg | [OH-].[K+]
product | 2-(2-nitrophenyl)ethanol | 2.33 g, 21% | [N+](=O)([O-])C1=C(C=CC=C1)CCO | C8H9NO3
